US06492403B1
132 mg (0.534 mmol) of methyl 4-(aminothioxomethyl)-5-methylthiothiophene-2-carboxylate (Maybridge Chemical Co. LTD., Cornwall, U.K.) was reacted with 2-bromo-2′,5′-dimethoxy acetophenone (0.587 mmol; 152 mg) in a manner similar to Example 22, step (a) to afford 97 mg (45% yield) of methyl 4-[4-(2,5-dimethoxyphenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxylate.

reactant | methyl 4-(aminothioxomethyl)-5-methylthiothiophene-2-carboxylate | 0.534 mmol, 132 mg | NC(C=1C=C(SC1C)C(=S)OC)=S | C8H9NOS3
reactant | 2-bromo-2′,5′-dimethoxy acetophenone | 0.587 mmol, 152 mg | BrCC(=O)C1=C(C=CC(=C1)OC)OC | C10H11BrO3
product | methyl 4-[4-(2,5-dimethoxyphenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxylate | 97 mg, 45% yield | COC1=C(C=C(C=C1)OC)C=1N=C(SC1)C=1C=C(SC1C)C(=S)OC | C18H17NO3S3
